US09196847B2
Synthesis of the 4-bromo-2,5-dimethylbenzaldehyde Intermediate 8
4 g (15 mmol, 1 eq.) of 1,4-dibromo-2,5-dimethylbenzene are solubilized in 50 mL of distilled THF, in a Schlenk tube under argon. The medium is then cooled to −78° C., then 6.6 mL (16.6 mmol, 1.1 eq.) of BuLi (2.5M in hexane) are added dropwise. After stirring at this temperature for 1 hour, 5.3 mL (68 mmol, 4.5 eq.) of freshly distilled DMF are added. The reaction medium is again stirred at this temperature for 1 hour, and then the temperature returns to ambient temperature overnight. Next, the medium is diluted with a solution of ammonium chloride and then extracted three times with ethyl acetate. The organic phases are combined, dried over magnesium sulphate, and concentrated under reduced pressure. The residue is purified by silica column chromatography (eluent: ethyl acetate/petroleum ether: 80/20), so as to give a white solid (m: 1.3 g, yield: 40%).

reactant | 1,4-dibromo-2,5-dimethylbenzene | 15 mmol, 4 g, 1 eq. | BrC1=C(C=C(C(=C1)C)Br)C | C8H8Br2
reactant | BuLi | 16.6 mmol, 2.5M, 6.6 mL, 1.1 eq. | [Li]CCCC
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-bromo-2,5-dimethylbenzaldehyde | yield: 40% | BrC1=CC(=C(C=O)C=C1C)C | C9H9BrO
